US05597848
Methyl 4-[4-(1-Hydroxy-2-phenylethyl)phenyl]butyrate
To a suspension of 20.0 g of methyl 4-[4-(phenylacetyl)phenyl]butyrate in 200 ml of methanol, 2.52 g of sodium borohydride was added portionwise under ice-cooling, and stirring was continued for 1 hour. After the reaction solvent was removed under reduced pressure, the residue was added with water and then extracted with ether. After the ether layer was washed with water and dried, the solvent was removed to yield 20.3 g of pale yellow oil.

reactant | methyl 4-[4-(phenylacetyl)phenyl]butyrate | 20.0 g | C1(=CC=CC=C1)CC(=O)C1=CC=C(C=C1)CCCC(=O)OC | C19H20O3
reactant | sodium borohydride | 2.52 g | [BH4-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | Methyl 4-[4-(1-Hydroxy-2-phenylethyl)phenyl]butyrate | 20.3 g | OC(CC1=CC=CC=C1)C1=CC=C(C=C1)CCCC(=O)OC | C19H22O3
